* Board overlay — included after main kicad_export by assemble.py (issue #45).
* Slice 4: TI TPS63070 subckt in libs/spice via sim.yml .include; KiCad Sim.Pins map on U1.
* Transient guard scenarios (#56, #76): DC bias for .op; VIN PWL 10 V → 14 V; load-current step ~80 mA → 1 A on VOUT.
.include "manual_parasitics.cir"
VVIN /VIN_2v_to_16v 0 DC 10 PWL(0 10 50u 10 51u 14 250u 14)
* Overlay load only (board connectors unmodeled in KiCad export): sinks current VOUT → GND.
II_LOAD /VOUT_+3.3v GND PWL(0 0.08 119u 0.08 120u 1 250u 1)
.op
.tran 100n 250u
.meas tran v_out_steady FIND v(/vout_+3.3v) AT=250u
.meas tran v_out_min MIN v(/vout_+3.3v) FROM=1u TO=250u
.meas tran vout_ripple_pp PP v(/vout_+3.3v) FROM=200u TO=250u
.meas tran v_out_light_load FIND v(/vout_+3.3v) AT=110u
.meas tran v_out_heavy_load FIND v(/vout_+3.3v) AT=245u
.end
